Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:44AM BLOOD WBC-8.5 RBC-5.80 Hgb-16.6 Hct-48.5 MCV-84 
MCH-28.6 MCHC-34.2 RDW-20.6* RDWSD-60.0* Plt ___
___ 12:44AM BLOOD Neuts-59.1 ___ Monos-9.3 Eos-2.1 
Baso-0.9 Im ___ AbsNeut-5.02 AbsLymp-2.38 AbsMono-0.79 
AbsEos-0.18 AbsBaso-0.08
___ 12:44AM BLOOD ___ PTT-34.3 ___
___ 12:44AM BLOOD Glucose-90 UreaN-19 Creat-1.3* Na-138 
K-3.9 Cl-99 HCO3-25 AnGap-14
___ 12:44AM BLOOD ALT-1624* AST-1674* AlkPhos-201* 
TotBili-16.5*
___ 12:44AM BLOOD Albumin-4.5 Calcium-10.0 Phos-4.0 Mg-2.1 
Iron-188*
___ 12:44AM BLOOD calTIBC-502* Ferritn-1545* TRF-386*

PERTINENT LABS:
================
___ 07:11AM BLOOD TSH-5.1*
___ 06:43AM BLOOD Free T4-1.2
___ 04:50PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 12:44AM BLOOD IgM HAV-NEG
___ 12:44AM BLOOD Smooth-NEGATIVE
___ 12:44AM BLOOD ___ Titer-1:160* antiTPO-111*
___ 12:44AM BLOOD IgG-1092 IgA-308 IgM-64
___ 04:50PM BLOOD CMV IgG-NEG EBV IgG-POS* EBNA-POS* EBV 
IgM-NEG EBVI-Results in
___ 07:11AM BLOOD HIV Ab-NEG
___ 12:44AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:50PM BLOOD HCV Ab-POS*
___ 12:44AM BLOOD HCV VL-5.8*
___ 12:56AM BLOOD Lactate-1.7
___ 06:15AM BLOOD ANTI-LIVER-KIDNEY-MICROSOME ANTIBODY-PND
___ 12:44AM BLOOD CERULOPLASMIN-Test 43     

DISCHARGE LABS:
=================
___ 06:20AM BLOOD WBC-8.1 RBC-5.47 Hgb-15.8 Hct-47.0 MCV-86 
MCH-28.9 MCHC-33.6 RDW-19.8* RDWSD-59.0* Plt ___
___ 06:20AM BLOOD Glucose-89 UreaN-19 Creat-1.0 Na-139 
K-3.7 Cl-97 HCO3-28 AnGap-14
___ 06:20AM BLOOD ALT-799* AST-386* AlkPhos-188* 
TotBili-8.6*
___ 06:20AM BLOOD Albumin-4.3 Calcium-9.4 Phos-4.1 Mg-2.2

IMAGING:
=========
RUQUS ___:
IMPRESSION:   
1. Mildly coarsened liver, without focal lesion. Patent hepatic 
vasculature.  
No evidence of portal vein thrombosis. 
2. Mild splenomegaly. 

MICROBIOLOGY:
==============
Blood cultures ___ x3: Negative
Urine culture ___: Negative
Monospot ___: Negative

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
========================
Mr. ___ is a ___ male with a history of untreated
hepatitis C transferred from an OSH for with acute liver injury
of uncertain etiology potentially secondary to ongoing alcohol
use and injection anabolic steroid use in the setting of 
underlying liver disease. During his hospitalization, his 
LFTs/Bili were improving and other potential causes of acute 
liver injury were checked. He was discharged home in stable 
condition. 

TRANSITIONAL ISSUES:
====================
[] Will need follow up CMP within one week of discharge to 
ensure resolving transaminitis. This can be drawn at hepatology 
follow up ___
[] Discontinued Cetirizine given case reports of cetirizine
causing elevations in LFTs. Can restart once LFTs are normal if 
he desires. 
[] ___ positive with titer pending upon discharge. 
Anti-Liver-Kidney-Microsome Antibody also pending upon 
discharge. 
[] Hepatitis C AB positive with viral load pending. Pt adamant 
for treatment. Per Dr. ___ eligible for treatment until 
Tbili <5. 
[] Received first dose of Hepatitis A and B vaccines ___. Will 
need to complete course as an outpatient. 
[ ] TSH elevated this hospitalization with normal free T4. 
Please repeat in ___ months when not acutely ill

#CODE: Full
#CONTACT: mother (___) - does not recall number

ACUTE ISSUES:
=============
#Acute Liver Injury
#Recent anabolic steroid use
#Hepatitis C Ab positive
No known history of cirrhosis. He does have a history of 
hepatitis C due to unclear exposure. He has been injecting 
anabolic steroids once a week for the past two months and states 
he always used clean new needles. Denies other IV drug use. Has 
remote history of blood transfusions though states he has been 
screened regularly since that time. No evidence of synthetic 
dysfunction or encephalopathy reassuring against liver failure. 
Serum Tylenol was negative. No portal vein thrombosis on US. No 
marked biliary dilatation on US. Liver injury most likely 
related to hepatitis C (will need to confirm with VL), 
exacerbated by toxin mediated injury in setting of trenbolone 
use immediately preceding onset of LFT abnormalities, as 
evidenced by case reports. Alcohol use likely
contributory to underlying liver disease, though denies use in
the past month. Lab work-up significant for non-immune to 
Hepatitis A and B, for which he received the first dose of 
vaccinations. Additionally, his ___ was positive with titer 
pending upon discharge. Cetirizine was discontinued given case 
reports of cetirizine causing elevations in LFTs. Ursodiol was 
deferred since he was not experiencing any itchiness. His LFTs 
continued to downtrend, and he was discharged home with plan to 
follow-up in ___ clinic in 1 week. He adamantly wants 
treatment for Hepatitis C. Per Dr. ___ eligible for 
treatment until Tbili <5. 

# Allergic Rhinitis: Continued fluticasone. Discontinued 
cetirizine as above since possible cause/contributory factor to 
acute liver injury.

# GERD: Continued Omeprazole. 

# BPH: Continued Doxazosin 8 mg PO HS 

#Asthma: Continued Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, 
Fluticasone
Propionate 110mcg 2 PUFF IH BID 

#Anxiety: Held home ALPRAZolam 1 mg PO TID:PRN anxiety but 
continued upon discharge 

#HTN: Continued Home riamterene-HCTZ (37.5/25) 1 CAP PO DAILY
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 1 mg PO TID:PRN anxiety 
2. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB 
3. Omeprazole 40 mg PO DAILY 
4. Doxazosin 8 mg PO HS 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
8. Cetirizine 10 mg PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB  
2.  ALPRAZolam 1 mg PO TID:PRN anxiety  
3.  Doxazosin 8 mg PO HS  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  Fluticasone Propionate NASAL 1 SPRY NU BID  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Omeprazole 40 mg PO DAILY  
8.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
9. HELD- Cetirizine 10 mg PO DAILY  This medication was held. Do 
not restart Cetirizine until follow up with liver doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Acute Liver Injury
Hepatitis C Ab positive
Recent anabolic steroid use

SECONDARY DIAGNOSIS:
====================
Allergic Rhinitis
Gastroesophageal Reflux Disease
Benign Prostate Hyperplasia
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were feeling tired 
and your liver function tests were high, this may have been due 
to alcohol or to injecting steroids. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We checked your liver functions tests daily which improved. 
- We sent blood work for other possible causes of liver injury.
- We think your liver injury is most likely due to alcohol use, 
and anabolic steroid use, which may be made worse by your 
chronic hepatitis C infection.
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- You must stop taking anabolic steroids completely
- You must never drink alcohol again or you will die
- Please enroll in AA and work with your primary care doctor to 
determine the best strategy to help you stay sober
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors. You should 
get lab work checked at your follow up appointment with Dr. 
___. We have emailed her to let her know that you were 
discharged and will be following up with her. 
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team

 
Followup Instructions:
___